US04592373
Preparation Of 2-(2-Butyl)-3-hydroxy-3-methyl-3-(4-pyridyl)propionic acid
The reaction of 4-acetylpyridine (24.1 grams, 0.2 mole) with the dianion of 3-methylvaleric acid (from 23.2 grams of acid, 0.2 mole) is carried out as described in Example III.

reactant | 4-acetylpyridine | 0.2 mole, 24.1 grams | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | 3-methylvaleric acid | 0.2 mole, 23.2 grams | CC(CC(=O)O)CC | C6H12O2
product | 2-(2-Butyl)-3-hydroxy-3-methyl-3-(4-pyridyl)propionic acid | CC(CC)C(C(=O)O)C(C1=CC=NC=C1)(C)O | C13H19NO3
